US08420849B2
2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonyl-5-methylthiophene
A dichloromethane (13 mL) solution of 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonyl-5-methyl-2,5-dihydrothiophene (806 mg, 2.66 mmol) was cooled to −72° C., and to this solution, a dichloromethane (2.7 mL) solution of sulfuryl chloride (0.11 mL, 0.5 equivalent amount) was dropwise added over a period of 3 minutes. After the temperature of the solution was raised to room temperature, the solution was mixed with water (16 mL) and a saturated sodium chloride aqueous solution (16 mL), and extracted with dichloromethane. The dichloromethane solution was dried over a drying agent and purified by silica gel column chromatography (eluent: hexane/ethyl acetate=85/15 and then 4/1 (v/v)) to give the desired product as a yellow solid (0.25 g, yield: 31%).

reactant | dichloromethane | 13 mL | ClCCl | CH2Cl2
reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonyl-5-methyl-2,5-dihydrothiophene | 2.66 mmol, 806 mg | ClC=1C=C(C=CC1Cl)C1SC(C(=C1O)C(=O)C)C | C13H12Cl2O2S
reactant | dichloromethane | 2.7 mL | ClCCl | CH2Cl2
reactant | sulfuryl chloride | 0.11 mL, 0.5 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 16 mL | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3,4-Dichlorophenyl)-3-hydroxy-4-methylcarbonyl-5-methylthiophene | 0.25 g, yield: 31% | ClC=1C=C(C=CC1Cl)C=1SC(=C(C1O)C(=O)C)C | C13H10Cl2O2S
